US04407799
Synthesis of 2-(2-methoxyphenyl)-1,3-perhydrothiazine-4-one
A mixture of 13.6 g of o-anisaldehyde, 10.6 g of 3-mercaptopropionic acid and 6 g of ammonium carbonate in 250 ml of toluene was refluxed at 110° C. for 2 hours in a flask provided with a Dean-Stark apparatus while removing the distilled water. The crystals which separated out after leaving the reaction mixture for a night were collected by filtering and recrystallized from hot dimethylformamide to obtain the object, colourless prisms melting at 201.5° to 203° C. in an amount of 18.7 g corresponding to a yield of 84%.

reactant | o-anisaldehyde | 13.6 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | 3-mercaptopropionic acid | 10.6 g | SCCC(=O)O | C3H6O2S
reactant | ammonium carbonate | 6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-methoxyphenyl)-1,3-perhydrothiazine-4-one | yield of 84% | COC1=CC=CC=C1C2NC(=O)CCS2 | C11H13NO2S
